US05225402
1-(1-Benzyl-4-piperidinyl)-5-hydroxy-3,4-dihydrocarbostyril (500 mg) is dissolved in acetone (20 ml) and thereto are added potassium carbonate (246 mg) and ethyl iodide (0.18 ml). The mixture is refluxed with stirring for 6.5 hours. After the reaction, the insoluble materials are removed by filtration, and the filtrate is concentrated under reduced pressure. Dichloromethane is added to the resulting residue and the mixture is washed with 5% aqueous sodium hydroxide solution and then dried with magnesium sulfate. The solvent is evaporated and the resulting residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol=50:1) to give 1-(1-benzyl-4-piperidinyl)-5-ethoxy-3,4-dihydrocarbostyril (0.27 g).

reactant | 1-(1-Benzyl-4-piperidinyl)-5-hydroxy-3,4-dihydrocarbostyril | 500 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1C(=O)CCC2=C(C=CC=C12)O | C21H24N2O2
reactant | potassium carbonate | 246 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.18 ml | C(C)I | C2H5I
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 1-(1-benzyl-4-piperidinyl)-5-ethoxy-3,4-dihydrocarbostyril | 0.27 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(=O)CCC2=C(C=CC=C12)OCC | C23H28N2O2
